US08114867B2
108.i. 4-[4-((R)-2,2-dimethyl-[1,3]dioxolan-4-yl)-but-2-enyloxy]-6-methoxy-quinoline
A solution of 6-methoxy-quinolin-4-ol (0.54 g, 3 mmol) and (E)-4-((R)-2,2-dimethyl-[1,3]dioxolan-4-yl)-but-2-en-1-ol (prepared according to J. Am. Chem. Soc. (2001), 123, 9525; 0.53 g, 3 mmol) in THF was treated with PPh3 (977 mg, 1.2 eq.) and dropwise with DIAD (0.77 mL, 1.2 eq.). The mixture was stirred at rt for 3 days, concentrated in vacuo and purified by FC (EA) to give the product as a yellowish oil (0.73 g, 72% yield).

reactant | 6-methoxy-quinolin-4-ol | 3 mmol, 0.54 g | COC=1C=C2C(=CC=NC2=CC1)O | C10H9NO2
reactant | (E)-4-((R)-2,2-dimethyl-[1,3]dioxolan-4-yl)-but-2-en-1-ol | 3 mmol, 0.53 g | CC1(OC[C@H](O1)C/C=C/CO)C | C9H16O3
reactant | PPh3 | 977 mg, 1.2 eq. | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | DIAD | 0.77 mL, 1.2 eq. | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
solvent | THF | C1CCOC1 | C4H8O
product | 4-[4-((R)-2,2-dimethyl-[1,3]dioxolan-4-yl)-but-2-enyloxy]-6-methoxy-quinoline | 0.73 g, 72% yield | CC1(OC[C@H](O1)CC=CCOC1=CC=NC2=CC=C(C=C12)OC)C | C19H23NO4
